US06875893B2
To a suspension of benzhydrol (35.00 g, 0.188 mol, 1 equivalent) and thiourea (17.40 g, 0.226 mol, 1.20 equivalents) in tetrahydrofuran/water (35.5 ml/52.5 ml), was added an aqueous 48% HBr solution (25.3 ml, 0.226 mol, 1.2 equivalents) over a 10 min period. During the addition, the reaction mixture is heated to 70° C. After 3 h stirring at 70° C., the uronium intermediate was hydrolyzed by addition of an aqueous 9.3N potassium hydroxide solution (58 ml, 0.542 mol, 2.88 equivalents) over a 55 min period. After 1.5 h stirring at 70° C., chloroacetamide (26.6 g, 0.282 mol, 1.5 equivalents) in a tetrahydrofuran/water (80 ml/79 ml) solution was added over 15 min. After 1 h stirring at 70° C., the reaction mixture was cooled down to 55° C. and the stirring was stopped. The lower aqueous phase was removed, and the reaction mixture was again stirred. Acetic acid (34.7 ml, 0.601 mol, 3.2 equivalents) was added. Hydrogen peroxide 30% (38.4 ml, 0.376 mol, 2 equivalents) was slowly added over 30 min. After 1 h stirring, the reaction mixture was cooled to 20° C. and water (263 ml) was added. The resultant suspension was stirred at 0° C. overnight. The suspension was then filtered and the solid was washed with water, and dried to yield modafinil (47.9 g, 80.4%). The crude modafinil was purified by recrystallization in methanol.

reactant | benzhydrol | 0.188 mol, 35.00 g, 1 equivalent | C(C1=CC=CC=C1)(C1=CC=CC=C1)O | C13H12O
reactant | thiourea | 0.226 mol, 17.40 g, 1.20 equivalents | NC(=S)N | CH4N2S
reactant | HBr | 0.226 mol, 25.3 ml, 1.2 equivalents | Br | BrH
reactant | uronium | [NH2+]=C(O)N
reactant | potassium hydroxide | 0.542 mol, 9.3N, 58 ml, 2.88 equivalents | [OH-].[K+]
reactant | chloroacetamide | 0.282 mol, 26.6 g, 1.5 equivalents | ClCC(=O)N | C2H4ClNO
reactant | Acetic acid | 0.601 mol, 34.7 ml, 3.2 equivalents | C(C)(=O)O | C2H4O2
reactant | Hydrogen peroxide | 0.376 mol, 38.4 ml, 2 equivalents | OO | H2O2
solvent | tetrahydrofuran water | 35.5 ml | O1CCCC1.O
solvent | tetrahydrofuran water | 80 ml | O1CCCC1.O
solvent | water | 263 ml | O | H2O
product | modafinil | 47.9 g, 80.4% | C=1C=CC(=CC1)C(C=2C=CC=CC2)[S+](CC(=O)N)[O-] | C15H15NO2S
